US04667050
To a stirred solution of 2-methyl-3-buten-2-ol (86.13 g, 1.0 mole), triethylamine (101.19 g, 1.3 mole), and 4-dimethylaminopropyridine (25.0 g, 0.2 mole) at 0° C. is added dropwise acetic anhydride (102.09 g, 1.15 mole) in CH2Cl2 (700 ml). The mixture is stirred at 0° C. for 5 hours and at room temperature overnight. Water is then added and the CH2CL2 layer separated. The aqueous layer is extracted with CH2Cl2 (3×300 ml) and the combined CH2Cl2 solution is washed with cold 1N HCl (300 ml), water (330 ml) and dried over anhydrous MgSO4. Distillation of the CH2Cl2 solution gives 2-methyl-3-buten-2-yl acetate (113.07 g), 88 percent, boiling point 59° C. (80 mm Hg).

reactant | 2-methyl-3-buten-2-ol | 1.0 mole, 86.13 g | CC(C)(C=C)O | C5H10O
reactant | triethylamine | 1.3 mole, 101.19 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 1.15 mole, 102.09 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | Water | O | H2O
solvent | CH2Cl2 | 700 ml | C(Cl)Cl | CH2Cl2
product | 2-methyl-3-buten-2-yl acetate | 113.07 g | C(C)(=O)OC(C)(C=C)C | C7H12O2
